### PR TITLE
Proved that L/K is normal

### LINKED ISSUE #147: FROBENIUS: The residue field extension L/K is normal
This follows from the existence of polynomials f_b for b \in L which are monic, degree |G|, defined over K, annihilate b and split completely in L.

### PR DESCRIPTION
**Pull request by 4hma4d**
Proved `normal` in `FrobeniusRiou.lean`
Fixes #147

### CODE REVIEW

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 1]
```diff
@@ -747,8 +747,21 @@ theorem algebraic {A : Type*} [CommRing A] {B : Type*} [Nontrivial B] [CommRing
...
     exact algebraMap.coe_zero
 
-theorem normal : Normal K L := by
-  sorry
+include G in
+theorem normal [DecidableEq L]: Normal K L := by
+  rw [normal_iff]
+  intro l
+  obtain ⟨f, hf⟩ := @f_exists G _ _ L _ K _ _ _ l
+  have hnz: f≠0 := by refine Monic.ne_zero_of_ne ?h.left.h ?h.left.hp; exact zero_ne_one' K; exact hf.1
```
Comment (Ruben-VandeVelde) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:755]: It's more readable to split `hf` here:
```suggestion
  obtain ⟨f, hfmonic, _, hf, hfsplits⟩ := @f_exists G _ _ L _ K _ _ _ l
  have hnz : f ≠ 0 := hfmonic.ne_zero
```

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 2]
```diff
@@ -747,8 +747,21 @@ theorem algebraic {A : Type*} [CommRing A] {B : Type*} [Nontrivial B] [CommRing
...
+  constructor
+  rw [← @isAlgebraic_iff_isIntegral]
+  unfold IsAlgebraic
+  use f
+  constructor
+  exact hnz
+  exact hf.2.2.1
```
Comment (Ruben-VandeVelde) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:762]: And then this can be done more quickly: 
```suggestion
  · rw [← isAlgebraic_iff_isIntegral]
    exact ⟨f, hfmonic.ne_zero, hf⟩
```

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 3]
```diff
@@ -747,8 +747,21 @@ theorem algebraic {A : Type*} [CommRing A] {B : Type*} [Nontrivial B] [CommRing
...
+  refine Polynomial.splits_of_splits_of_dvd (algebraMap K L) hnz hf.2.2.2 ?_
+  apply minpoly.dvd; exact hf.2.2.1
```
Comment (Ruben-VandeVelde) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:764]: And here
```suggestion
  exact minpoly.dvd _ _ hf
```

File: FLT/MathlibExperiments/FrobeniusRiou.lean [hunk 4]
```diff
@@ -747,8 +747,21 @@ theorem algebraic {A : Type*} [CommRing A] {B : Type*} [Nontrivial B] [CommRing
     rw [eval_map, eval₂_hom, F_eval_eq_zero]
     exact algebraMap.coe_zero
 
-theorem normal : Normal K L := by
-  sorry
+include G in
+theorem normal [DecidableEq L]: Normal K L := by
```
Comment (Ruben-VandeVelde) [inline FLT/MathlibExperiments/FrobeniusRiou.lean:751]:
```suggestion
theorem normal [DecidableEq L] : Normal K L := by
```

**Review by Ruben-VandeVelde — COMMENTED** [review]
Nice job! Some suggestions

**Comment by Ruben-VandeVelde** [comment]
And please put "Fixes #147" in the summary

**Comment by 4hma4d** [comment]
> Nice job! Some suggestions

Thanks!
